US04661477
A mixture of 11 g. (0.1 moles) of dimethyl phosphite, 20 ml. of water and 20 ml. of methanol is reacted with a mixture of 13.12 g. (0.1 moles) of 3-butyloxypropyl amine and 30 ml. of methanol as described in Example 1. 22.6 g. of 3-butyloxypropyl-ammoniummethyl phosphanate are obtained. Yield: 89.4%. nD30 =1.4420

reactant | dimethyl phosphite | 0.1 moles | P(OC)(OC)[O-]
reactant | water | O | H2O
reactant | 3-butyloxypropyl amine | 0.1 moles | C(CCC)OCCCN | C7H17NO
solvent | methanol | CO | CH4O
product | 3-butyloxypropyl-ammoniummethyl phosphanate | Yield: 89.4% | COP=O.C(CCC)OCCC[NH3+] | InChI=1S/C7H17NO.CH3O2P/c1-2-3-6-9-7-4-5-8;1-3-4-2/h2-8H2,1H3;1H3/p+1
